* vga_dut — generated from DeviceSpecs; do not edit by hand
.SUBCKT vga_dut outp outn inp inn vicm steerp steern vdd vss mgate
M1 mgate mgate vss vss sg13_lv_nmos w=246.75u l=1u ng=1 m=1
M2 tx1 mgate vss vss sg13_lv_nmos w=246.75u l=1u ng=1 m=1
M3 tx2 mgate vss vss sg13_lv_nmos w=246.75u l=1u ng=1 m=1
M4 tx1 steerp em vss sg13_lv_nmos w=200u l=0.5u ng=1 m=1
M5 tx2 steerp em vss sg13_lv_nmos w=200u l=0.5u ng=1 m=1
M6 tx1 steern ed1 vss sg13_lv_nmos w=200u l=0.5u ng=1 m=1
M7 tx2 steern ed2 vss sg13_lv_nmos w=200u l=0.5u ng=1 m=1
Q1 outp inp em vss npn13G2 le=0.9u we=0.07u Nx=1 m=1
Q2 outn inn em vss npn13G2 le=0.9u we=0.07u Nx=1 m=1
Q3 outp vicm ed1 vss npn13G2 le=0.9u we=0.07u Nx=1 m=1
Q4 outn vicm ed2 vss npn13G2 le=0.9u we=0.07u Nx=1 m=1
R1 outp nlp1 vss rppd m=1 l=1.4u w=5u
R2 outn nlp2 vss rppd m=1 l=1.4u w=5u
L1 vdd nlp1 vss inductor w=4u s=2.1u d=40u nr_r=1
L2 vdd nlp2 vss inductor w=4u s=2.1u d=40u nr_r=1
.ENDS vga_dut
